US08729263B2
To 3,6-dichloropyridazine (4.18 g, 28.1 mmol) and Na2CO3 (8.93 g, 84 mmol) in DME (100 mL) and water (25 mL) was added benzo[b]thiophen-2-ylboronic acid (5 g, 28.1 mmol) and PdCl2(dppf).CH2Cl2 (0.69 g, 0.84 mmol). The reaction was evacuated under vacuum and purged with N2 3×. The reaction was heated at 85° C. for 18 h and cooled to RT. The crude product was filtered through celite and was rinsed with EtOAc followed by CH2Cl2. The crude filtrate was concentrated under vacuum and diluted in CH2Cl2 and water. The organic layer was separated, and the remaining emulsion was acidified with 1 M HCl and extracted with EtOAc. The combined organic layers were washed with water, brine, dried over MgSO4, filtered, and concentrated. The crude product was purified by silica gel chromatography. The product was partially concentrated to provide a precipitate which was filtered to give 3-(benzo[b]thiophen-2-yl)-6-chloropyridazine (2.36 g) as a light yellow solid. The filtrate was recrystallized from CH3CN to give 3-(benzo[b]thiophen-2-yl)-6-chloropyridazine (0.46 g). LCMS Rt=1.57 minutes (condition B); (M+1)=247.1.

reactant | 3,6-dichloropyridazine | 28.1 mmol, 4.18 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | Na2CO3 | 84 mmol, 8.93 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzo[b]thiophen-2-ylboronic acid | 28.1 mmol, 5 g | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | CH2Cl2 | 0.84 mmol, 0.69 g | C(Cl)Cl | CH2Cl2
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | water | 25 mL | O | H2O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(benzo[b]thiophen-2-yl)-6-chloropyridazine | 2.36 g | S1C2=C(C=C1C=1N=NC(=CC1)Cl)C=CC=C2 | C12H7ClN2S
